US03931407
1-(4-Acetamido-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC84##
A mixture of 11.7 g. (0.054 mole) of 2-phenacylcyclohexanone, 10.5 g. (0.054 mole) of 2-acetamido-5-aminobenzoic acid, and 50 ml. of glacial acetic acid was heated under reflux for 4 hours, cooled, diluted with 15 ml. of methanol and filtered. The collected solid was recrystallized from acetonitrile to provide 9.45 g. (47%) of crystals, m.p. 192° -194°.

reactant | 2-phenacylcyclohexanone | 0.054 mole | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
reactant | 2-acetamido-5-aminobenzoic acid | 0.054 mole | C(C)(=O)NC1=C(C(=O)O)C=C(C=C1)N | C9H10N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-Acetamido-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | C(C)(=O)NC1=C(C=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1)C(=O)O | C23H22N2O3
